US08633173B2
2-(7-{8-[5-Chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-N,N-dimethyl-acetamide was prepared from {8-[5-chloro-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine (0.075 g, 0.160 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.025 mL, 0.239 mmol) in a manner analogous to Example 313 to give product (0.030 g, 34%). MP=190-191° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.54 (s, 1H), 8.78 (d, 1H), 7.80 (s, 1H), 7.65 (d, 1H), 7.50 (m, 3H), 7.30 (d, 1H), 7.05 (m, 2H), 6.25 (br m, 1H), 4.35 (m, 2H), 3.22 (s, 2H), 3.05 (s, 3H), 3.75 (m, 7H), 2.55 (m, 4H). MS=556 (MH)+.

reactant | {8-[5-chloro-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine | 0.160 mmol, 0.075 g | ClC=1C=CC(=C(C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCNCC1)C=C2)OCC(F)F | C24H22ClF2N5O
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.239 mmol, 0.025 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(7-{8-[5-Chloro-2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-N,N-dimethyl-acetamide | ClC=1C=CC(=C(C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCN(CC1)CC(=O)N(C)C)C=C2)OCC(F)F | C28H29ClF2N6O2
